US05591811
1-(2-phenylimidazolylmethyl)-2-naphthol
To a 30% solution of 2-phenylimidazole (144 g, 1 mole) and 2-naphthol (144 g, 1 mole) in isopropanol, formaline (37% aqueous solution, 1 mole of CH2O) is added over a period of 30 minutes at room temperature, followed by six hours of refluxing at 82°-84° C. The product (270 g of a white powder) is obtained in a yield of 90%.

reactant | 2-phenylimidazole | 1 mole, 144 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | 2-naphthol | 1 mole, 144 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | formaline | 1 mole | C=O | CH2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(2-phenylimidazolylmethyl)-2-naphthol | 270 g, yield of 90% | C1(=CC=CC=C1)C=1NC=C(N1)CC1=C(C=CC2=CC=CC=C12)O | C20H16N2O
